US08420816B2
Step A: tert-butyl 3-cyano-3-(fluoromethyl)azetidine-1-carboxylate
To an oven-dried 25 mL round bottom flask equipped for stirring was added diisopropylamine (0.659 mL, 4.66 mmol) under nitrogen. THF (5 mL) was added and the colorless solution was cooled to 0° C. To this solution was added n-BuLi (2.92 mL, 4.66 mmol) and the solution was stirred at 0° C. for 30 min. The solution was cooled to -78° C. and a solution of tert-butyl 3-cyanoazetidine-1-carboxylate (0.5 g, 2.74 mmol) in THF (3 mL) was added and the solution was stirred at −78° C. for 30 min. Bromofluoromethane (0.403 g, 3.57 mmol) was added at −78° C. dropwise. The reaction mixture was stirred for 30 min and then allowed to warm to 25° C. and stirred for 16 h. The reaction mixture was quenched at 0° C. with aqueous NH4Cl (5 mL) and extracted with DCM (3×). The extracts were dried over Na2SO4. Purification by silica column chromatography (MeOH/DCM, 0-5%) afforded the title compound as a yellow oil (0.52 g, 94%).

reactant | diisopropylamine | 4.66 mmol, 0.659 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 4.66 mmol, 2.92 mL | [Li]CCCC
reactant | tert-butyl 3-cyanoazetidine-1-carboxylate | 2.74 mmol, 0.5 g | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
reactant | Bromofluoromethane | 3.57 mmol, 0.403 g | BrCF | CH2BrF
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-cyano-3-(fluoromethyl)azetidine-1-carboxylate | 0.52 g, 94% | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)CF | C10H15FN2O2
